US08835449B2
6-Iodo-1-(2-methoxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one
To a stirring solution of diisopropylamine (8.3 mL, 59.10 mmol) in THF (50 mL) was added n-butyl lithium (2N in hexanes, 30.0 mL, 60.0 mmol) dropwise at −78° C. under argon. The reaction mixture was slowly warmed to −20° C. and then cooled to −78° C. A solution of 1-(2-methoxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one (5.0 g, 26.85 mmol) in THF (50 mL) was added dropwise at −78° C. The reaction mixture was slowly warmed to −10° C. over 1 hour and then cooled to −78° C. A solution of iodine (15.0 g, 59.07 mmol) in THF (50 mL) was added at −78° C. and the reaction mixture was stirred at room temperature for 20 hours. Reaction was diluted with saturated aqueous ammonium chloride (200 mL) and the organic solvents were removed under reduced pressure. The aqueous residue was acidified to pH 4 with 1N aqueous HCl and extracted with CH2Cl2 (3×300 mL, 1×200 mL). The combined organic layers were washed with 10% aqueous sodium thiosulfate solution (400 mL), brine (300 mL), dried over MgSO4 and concentrated in vacuo. The resulting residue was stirred in CH2Cl2 at room temperature and solids were collected by filtration to give the title compound (9.05 g, 54%) as a pale brown solid. The filtrate was concentrated and purified by flash chromatography (0-25% CH2Cl2/EtOAc) to afford a second batch of the title compound (3.10 g, 18%) as a cream colored solid (72% combined yield).

reactant | diisopropylamine | 59.10 mmol, 8.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 60.0 mmol, 2N, 30.0 mL | C(CCC)[Li]
reactant | 1-(2-methoxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 26.85 mmol, 5.0 g | COCCN1C(NC(C=C1)=O)=S | C7H10N2O2S
reactant | iodine | 59.07 mmol, 15.0 g | II | I2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 200 mL | [Cl-].[NH4+]
product | 6-Iodo-1-(2-methoxyethyl)-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 9.05 g, 54% | IC1=CC(NC(N1CCOC)=S)=O | C7H9IN2O2S
